**.subckt comp_clks_1stage clk clka clkb
*.ipin clk
*.opin clka
*.opin clkb
X3 clk clkb GND VDD transmission_gate Wpmos=Wpmos Lpmos=Lpmos Wnmos=Wnmos Lnmos=Lnmos
X1 clk clka inv Wpmos=Wpmos Lpmos=Lpmos Wnmos=Wnmos Lnmos=Lnmos
**.ends

* expanding   symbol:  transmission_gate/transmission_gate.sym # of pins=4
* sym_path: /home/sky/fossi_cochlea/xschem/transmission_gate/transmission_gate.sym
* sch_path: /home/sky/fossi_cochlea/xschem/transmission_gate/transmission_gate.sch
.subckt transmission_gate  in out ctrl_ ctrl   Wpmos=0.42 Lpmos=0.18 Wnmos=0.42 Lnmos=0.18
*.iopin in
*.iopin out
*.ipin ctrl_
*.ipin ctrl
XM1 out ctrl in GND sky130_fd_pr__nfet_01v8 L=Lnmos W=Wnmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM2 out ctrl_ in VDD sky130_fd_pr__pfet_01v8 L=Lpmos W=Wpmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
.ends


* expanding   symbol:  inv/inv.sym # of pins=2
* sym_path: /home/sky/fossi_cochlea/xschem/inv/inv.sym
* sch_path: /home/sky/fossi_cochlea/xschem/inv/inv.sch
.subckt inv  in out   Wpmos=3 Lpmos=0.18 Wnmos=1 Lnmos=0.18
*.ipin in
*.iopin out
XM1 GND in out GND sky130_fd_pr__nfet_01v8 L=Lnmos W=Wnmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
XM2 VDD in out VDD sky130_fd_pr__pfet_01v8 L=Lpmos W=Wpmos nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1 
.ends

.GLOBAL VDD
.GLOBAL GND
** flattened .save nodes
.end
